US09259470B2
4-(2-(Tetrahydro-2H-pyran-4-ylamino)pyrimidin-4-yl)pyridin-2(1H)-one (136 mg, 0.500 mmol) and K2CO3 (248 mg, 1.80 mmol) were added to a solution of tert-butyl (2-(4-chloro-3-fluorophenyl)oxiran-2-yloxy)dimethylsilane (200 mg, 0.600 mmol) in DMF (5.0 mL). After being heated at 80° C. overnight, the mixture was diluted with H2O (50 mL) and extracted with EtOAc (3×100 mL). The organic phases were washed with brine (3×30 mL), dried, and concentrated. The residue was dissolved in CH2Cl2, followed by addition of TFA (5.0 mL). The mixture was stirred at room temperature overnight. The solvent was removed under vacuum, and the residue was purified by prep-HPLC to give 1-(2-(4-chloro-3-fluorophenyl)-2,3-dihydroxypropyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridine-2(1H)-one (70 mg, 30% yield). 1H NMR (500 MHz, CD3OD) δ 8.39 (m, 1H), 7.67-7.66 (m, 1H), 7.51-7.49 (m, 1H), 7.45-7.38 (m, 1H), 7.22 (s, 2H), 7.08-7.07 (m, 1H), 6.97-6.95 (m, 1H), 4.69-4.66 (m, 1H), 4.31-4.28 (m, 1H), 4.10 (s, 1H), 4.01-3.99 (m, 2H), 3.72-3.66 (m, 2H), 3.60-3.56 (m, 2H), 2.03-2.00 (m, 2H), 1.67-1.59 (m, 2H); LCMS (ESI) m/z: 475.1 [M+H]+.

reactant | 4-(2-(Tetrahydro-2H-pyran-4-ylamino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.500 mmol, 136 mg | O1CCC(CC1)NC1=NC=CC(=N1)C1=CC(NC=C1)=O | C14H16N4O2
reactant | K2CO3 | 1.80 mmol, 248 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl (2-(4-chloro-3-fluorophenyl)oxiran-2-yloxy)dimethylsilane | 0.600 mmol, 200 mg | C(C)(C)(C)[Si](C)(C)OC1(OC1)C1=CC(=C(C=C1)Cl)F | C14H20ClFO2Si
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | 1-(2-(4-chloro-3-fluorophenyl)-2,3-dihydroxypropyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridine-2(1H)-one | 70 mg, 30% yield | ClC1=C(C=C(C=C1)C(CN1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)(CO)O)F | C23H24ClFN4O4
